US04797403
A. Methyl 2-(3-carbomethoxyphenylamino)-benzoate
To a 500 ml round-bottomed flask equipped with condenser and N2 inlet were added 15.7 g (0.10 mol) 2-chlorobenzoic acid, 23.3 g (0.17 mol) 3-aminobenzoic acid, 23.5 g (0.17 mol) potassium carbonate, 50 mg copper powder, and 40 ml dimethylformamide. The mixture was heated to reflux, and three 50 mg portions of methanol-washed copper(I) bromide were added. The reaction was refluxed 3.5 hours, cooled, and poured into 1 l 1N HCl. The mixture was stirred for 10 minutes, filtered, and the filtered solid washed with water, methanol, and ether, and dried to afford a gray solid, mp 277°-279° C., 19 g (73.9%). The acid was taken up in 250 ml methanol, the solution saturated with HCl and refluxed 40 hours, and cooled and evaporated. The residue was chromatographed on silica gel using methylene chloride as eluent to afford 17.46 g (61.3% overall) of a yellow oil. NMR (d, CDCl3): 3.97 (s, 3H), 6.7-8.0 (m, 8H). IR (Cm.-1, KBr): 1730 (C=0).

reactant | 2-chlorobenzoic acid | 0.10 mol, 15.7 g | ClC1=C(C(=O)O)C=CC=C1 | C7H5ClO2
reactant | 3-aminobenzoic acid | 0.17 mol, 23.3 g | NC=1C=C(C(=O)O)C=CC1 | C7H7NO2
reactant | potassium carbonate | 0.17 mol, 23.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | Cl | ClH
reactant | KBr | [K+].[Br-]
reactant | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | methanol | 250 ml | CO | CH4O
catalyst | copper | 50 mg | [Cu] | Cu
product | Methyl 2-(3-carbomethoxyphenylamino)-benzoate | C(=O)(OC)C=1C=C(C=CC1)NC1=C(C(=O)OC)C=CC=C1 | C16H15NO4
